US08669234B2
2-[2-({[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-amino)-acetylamino]-3-methyl-butyric acid was prepared using method 804 substituting 2-[2-({[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-tert-butoxycarbonyl-amino)-acetylamino]-3-methyl-butyric acid for 1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl]-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester. C17H22BrN3O5 calculated 427.1 observed [M+1]+ 428.0; rt=2.39 min.

reactant | 2-[2-({[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-tert-butoxycarbonyl-amino)-acetylamino]-3-methyl-butyric acid | BrC1=CC=C(C=C1)C(CNC(=O)CN(CC(=O)NC(C(=O)O)C(C)C)C(=O)OC(C)(C)C)=O | C22H30BrN3O7
reactant | carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O | C5H11NO2
product | 2-[2-({[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-amino)-acetylamino]-3-methyl-butyric acid | BrC1=CC=C(C=C1)C(CNC(=O)CNCC(=O)NC(C(=O)O)C(C)C)=O | C17H22BrN3O5
